US04876262
4-(4-Methylsulfonylaminobenzoyl)-1-[2-(2-quinoxalinyl)-ethyl]piperidine
5.0 g (15.7 mmol) of 4-(4-methylsulfonylaminobenzoyl)piperidine hydrochloride was suspended in 5 ml of ethanol. 2.49 g of 2-methylquinoxaline and 7.0 ml of formalin were added to the suspension and the mixture was stirred at 90° C. for 1 h. After cooling, the mixture was neutralized with a 20% aqueous sodium hydroxide solution and the formed crystals were recrystallized from ethyl acetate to obtain 0.32 g (yield: 5%) of the intended compound.

reactant | 4-(4-methylsulfonylaminobenzoyl)piperidine hydrochloride | 15.7 mmol, 5.0 g | Cl.CS(=O)(=O)NC1=CC=C(C(=O)C2CCNCC2)C=C1
reactant | 2-methylquinoxaline | 2.49 g | CC1=NC2=CC=CC=C2N=C1 | C9H8N2
reactant | formalin | 7.0 ml | C=O | CH2O
reactant | sodium hydroxide | [OH-].[Na+]
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | 4-(4-Methylsulfonylaminobenzoyl)-1-[2-(2-quinoxalinyl)-ethyl]piperidine | 0.32 g, yield: 5% | CS(=O)(=O)NC1=CC=C(C(=O)C2CCN(CC2)CCC2=NC3=CC=CC=C3N=C2)C=C1 | C23H26N4O3S
